US08557834B2
N-[(1-Cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine
Ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (270 mg, 0.80 mmol)) was dissolved in ethanol (2 mL) and 1M aqueous NaOH solution was added. The solution was stirred one hour at room temperature, then neutralized by addition of 1M aqueous HCl. The resulting solid was collected, washed with water, and dried under vacuum overnight to give the title compound (208 mg, 84%). LC/MS m/z 312 (M+H+).

reactant | Ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 0.80 mmol, 270 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | NaOH | 1M | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[(1-Cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine | 208 mg, 84% | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)O)=O)=O | C13H17N3O6
